US05864039
1H-NMR (CDCl3,ppm) δ: 1.34-1.81(19 H,m), 2.26-2.39(4 H,m), 2.51-2.59(2 H,m), 2.92-2.97(2 H,m), 3.16(3 H,s), 3.18-3.21(2 H,m), 4.69(1 H,br), 7.42-7.56(3 H,m), 7.93-7.96(2 H,m) (2) 4-Methoxy-1-(6-oxo-6-phenylhexyl)-4-tert-butoxycarbonylaminomethylpiperidine (3.35 g) and 15% hydrochloric acid-isopropyl alcohol (15 ml) were reacted and treated in the same manner as in Preparation Example 138(2) to give 2.25 g of 4-aminomethyl-4-methoxy-1-(6-oxo-6-phenylhexyl)piperidine dihydrochloride.

reactant | 4-Methoxy-1-(6-oxo-6-phenylhexyl)-4-tert-butoxycarbonylaminomethylpiperidine | 3.35 g | COC1(CCN(CC1)CCCCCC(C1=CC=CC=C1)=O)CNC(=O)OC(C)(C)C | C24H38N2O4
reactant | hydrochloric acid isopropyl alcohol | 15 ml | Cl.C(C)(C)O
product | 4-aminomethyl-4-methoxy-1-(6-oxo-6-phenylhexyl)piperidine dihydrochloride | 2.25 g | Cl.Cl.NCC1(CCN(CC1)CCCCCC(C1=CC=CC=C1)=O)OC | InChI=1S/C19H30N2O2.2ClH/c1-23-19(16-20)11-14-21(15-12-19)13-7-3-6-10-18(22)17-8-4-2-5-9-17;;/h2,4-5,8-9H,3,6-7,10-16,20H2,1H3;2*1H
